US08207172B2
Preparation of N-[1-(3-fluorobenzyl)-1H-indazol-5-yl]-3-[2-(1H-imidazol-1-yl)ethyl]-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine
The title compound was prepared following the procedure described for example 277, utilizing 2-(6-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl)ethyl methanesulfonate (1.53 g, 3.0 mmol), imidazole (17 mg, 0.25 mmol), and diisopropylethylamine (0.06 mL, 0.34 mmol). The desired product was collected as a white solid (37 mg, 39%). 1H-NMR (CD2Cl2-d2) δ 8.26 (s, 1H), 8.04 (s, 1H), 7.98 (s, 1H), 7.65 (s, 1H), 7.50 (d, 1H), 7.40 (d, 1H), 7.21-7.38 (m, 2H), 6.90-7.00 (m, 3H), 6.82 (dd, 1H), 6.72 (s, 1H), 5.60 (s, 2H), 4.42 (t, 2H), 4.35 (t, 2H), 3.17 (t, 2H), 2.40 (t, 2H); LCMS RT=2.58 min; [M+H]+=562.4

reactant | 2-(6-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl)ethyl methanesulfonate | 3.0 mmol, 1.53 g | CS(=O)(=O)OCCN1N=CC=2C3=C(CCC12)C1=C(S3)N=CN=C1NC=1C=C3C=NN(C3=CC1)CC1=CC(=CC=C1)F | C28H24FN7O3S2
reactant | imidazole | 0.25 mmol, 17 mg | N1C=NC=C1 | C3H4N2
reactant | diisopropylethylamine | 0.34 mmol, 0.06 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | N-[1-(3-fluorobenzyl)-1H-indazol-5-yl]-3-[2-(1H-imidazol-1-yl)ethyl]-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC=2N=CN=C3C2C2=C(C=4C=NN(C4CC2)CCN2C=NC=C2)S3)C=CC1 | C30H24FN9S
